US08283475B2
5,7-Dichloro-3-methyl-1H-indazole was prepared using a procedure similar to that described in Example 98, part a and b, except starting from 2,4-dichloro-6-ethylaniline (2.9 g) that was prepared by chlorination of 6-ethylaniline (10 g) with N-chlorosuccinimide (22 g) in acetonitrile (80 mL).

reactant | 2,4-dichloro-6-ethylaniline | 2.9 g | ClC1=C(N)C(=CC(=C1)Cl)CC | C8H9Cl2N
reactant | 6-ethylaniline | 10 g | C(C)C1=CC=CC=C1N | C8H11N
reactant | N-chlorosuccinimide | 22 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 5,7-Dichloro-3-methyl-1H-indazole | ClC=1C=C2C(=NNC2=C(C1)Cl)C | C8H6Cl2N2
